US04177335
Pentaerythritol-Triphenylphosphite-Triethylphosphite-Pentachlorophenol-Propylene Oxide
A 5-liter flask, standardly equipped, was charged with 1596 grams of pentachlorophenol containing about 750 ppm of aluminum and iron compounds, 680 grams of pentaerythritol and a mixture of 195 grams of triethylphosphite and 260 grams of triphenylphosphite that had been heated overnight at 80° C. Then propylene oxide was added until the acid number was less than 1. The mixture was stripped for 2 hours at 90°-104° C./2-4 mm. Hg. The 3562 grams of oxypropylated polyol product contained a finely divided solid. Upon filtering and washing thoroughly with acetone, approximately 75 grams of the dried solid material was obtained. A sample of the oxypropylated polyol product analyzed as follows:

reactant | pentachlorophenol | 1596 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | pentaerythritol | 680 grams | OCC(CO)(CO)CO | C5H12O4
reactant | triethylphosphite | 195 grams | C(C)OP(OCC)OCC | C6H15O3P
reactant | triphenylphosphite | 260 grams | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | propylene oxide | C1C(C)O1 | C3H6O
catalyst | iron | [Fe] | Fe
product | Pentaerythritol Triphenylphosphite Triethylphosphite Pentachlorophenol Propylene Oxide | approximately 75 grams | OCC(CO)(CO)CO.C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1.C(C)OP(OCC)OCC.ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.C1C(C)O1 | InChI=1S/C18H15O3P.C6HCl5O.C6H15O3P.C5H12O4.C3H6O/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;7-1-2(8)4(10)6(12)5(11)3(1)9;1-4-7-10(8-5-2)9-6-3;6-1-5(2-7,3-8)4-9;1-3-2-4-3/h1-15H;12H;4-6H2,1-3H3;6-9H,1-4H2;3H,2H2,1H3
